US07935694B2
2-(3,4-Dimethoxy-phenylamino)-9-(3-hydroxy-prop-1-ynyl)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-52)
In a manner similar to that described for Method O, 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-30) and prop-2-yn-1-ol were converted to I-52 (38%): HRMS Calcd. for C23H20N4O4: 417.1562, Found 417.1551.

reactant | 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)I)N1 | C20H17IN4O3
reactant | prop-2-yn-1-ol | C(C#C)O | C3H4O
product | 2-(3,4-Dimethoxy-phenylamino)-9-(3-hydroxy-prop-1-ynyl)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)C#CCO)N1 | C23H20N4O4
